### PR TITLE
[Merged by Bors] - feat(Topology): generalize `IsModuleTopology` lemmas to semilinear maps

### PR DESCRIPTION
**Pull request by llllvvuu**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by erdOne — COMMENTED** [review]
Wasn't @kbuzzard doing this as well?

File: Mathlib/Topology/Algebra/Module/ModuleTopology.lean [hunk 1]
```diff
@@ -337,35 +363,36 @@ end function
...
 open Topology in
-/-- A linear surjection between modules with the module topology is a quotient map.
-Equivalently, the pushforward of the module topology along a surjective linear map is
+/-- A semilinear surjection between modules with the module topology is a quotient map.
+Equivalently, the pushforward of the module topology along a surjective semilinear map is
 again the module topology. -/
-theorem isQuotientMap_of_surjective [τB : TopologicalSpace B] [IsModuleTopology R B]
-    {φ : A →ₗ[R] B} (hφ : Function.Surjective φ) :
+theorem isQuotientMap_of_surjectiveₛₗ [τB : TopologicalSpace B'] [IsModuleTopology S B']
+    {σ : R →+* S} (hσ : IsOpenQuotientMap σ) (φ : A →ₛₗ[σ] B') (hφ : Function.Surjective φ) :
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Module/ModuleTopology.lean:378]: Can you require only `IsQuotientMap σ` here? (via `AddMonoidHom.isOpenQuotientMap_of_isQuotientMap`)

Comment (llllvvuu) [reply Mathlib/Topology/Algebra/Module/ModuleTopology.lean:378]: Needs `ContinuousAdd R`

File: Mathlib/Topology/Algebra/Module/ModuleTopology.lean [hunk 2]
```diff
@@ -199,33 +199,42 @@ end basics
...
+variable {σ : R →+* S} {σ' : S →+* R} [RingHomInvPair σ σ'] [RingHomInvPair σ' σ]
 variable {A : Type*} [AddCommMonoid A] [Module R A] [τA : TopologicalSpace A] [IsModuleTopology R A]
 variable {B : Type*} [AddCommMonoid B] [Module R B] [τB : TopologicalSpace B]
+variable {B' : Type*} [AddCommMonoid B'] [Module S B'] [τB' : TopologicalSpace B']
 
-/-- If `A` and `B` are `R`-modules, homeomorphic via an `R`-linear homeomorphism, and if
+/-- If `A` and `B` are modules, homeomorphic via a semilinear homeomorphism, and if
 `A` has the module topology, then so does `B`. -/
-theorem iso (e : A ≃L[R] B) : IsModuleTopology R B where
+protected theorem isoₛₗ (hσ : Continuous σ) (hσ' : Continuous σ') (e : A ≃SL[σ] B') :
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/Module/ModuleTopology.lean:210]:
```suggestion
protected theorem isoₛₗ (hσ : Continuous σ) (hσ' : Continuous σ') (e : A ≃SL[σ] B') :
```
Why protected?

File: Mathlib/Topology/Algebra/Module/ModuleTopology.lean [hunk 3]
```diff
@@ -199,33 +199,42 @@ end basics
...
       rw [induced_compose]
-      refine ⟨⟨continuousSMul_induced g.toMulActionHom, continuousAdd_induced h⟩, ?_⟩
+      refine ⟨⟨continuousSMul_inducedₛₗ g hσ, continuousAdd_induced h⟩, ?_⟩
       nth_rw 2 [← induced_id (t := τ)]
       simp
 
+/-- If `A` and `B` are `R`-modules, homeomorphic via an `R`-linear homeomorphism, and if
+`A` has the module topology, then so does `B`.
+See `IsModuleTopology.isoₛₗ` for the generalization to a semilinear homeomorphism. -/
+protected theorem iso (e : A ≃L[R] B) : IsModuleTopology R B :=
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/Module/ModuleTopology.lean:235]: Why protected?

File: Mathlib/Topology/Algebra/Module/ModuleTopology.lean (hunk 1 above)
Comment (kckennylau) [reply Mathlib/Topology/Algebra/Module/ModuleTopology.lean:378]: This does seem to be more general then, given that restriction.

**Review by kckennylau — COMMENTED** [review]
LGTM, but I don't understand why `isoₛₗ` and `iso` have to be protected.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
